US07767854B2
Under nitrogen atmosphere, anhydrous cerium chloride (4.63 g) was added to anhydrous tetrahydrofuran (50 ml), and the mixture was stirred at room temperature for 2 hours. After the suspension was cooled to −78° C., 1.6 M butyl lithium in hexane (6.40 ml) was added to the suspension and then the mixture was stirred for 1 hour. A solution of t-butyl 4-oxocyclohexylcarbamate (2.36 g) in anhydrous tetrahydrofuran (50 ml) was added to the reaction mixture over 10 minutes, and the mixture was gradually warmed to about 25° C. and then stirred overnight. After a saturated aqueous ammonium chloride was added to the reaction mixture, the mixture was filtrated through Celite. The filtrate was extracted with ethyl acetate, and the organic layer was washed with brine, dried over sodium sulfate, and the solvent was removed in vacuo. The residue was purified by a silica gel chromatography (eluent: chloroform/methanol=100/1) to give 2.53 g of t-butyl 4-butyl-4-hydroxycyclohexylcarbamate.

reactant | cerium chloride | 4.63 g | [Cl-].[Ce+3].[Cl-].[Cl-]
reactant | butyl lithium | 1.6 M | C(CCC)[Li]
reactant | t-butyl 4-oxocyclohexylcarbamate | 2.36 g | O=C1CCC(CC1)NC(OC(C)(C)C)=O | C11H19NO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | hexane | 6.40 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | t-butyl 4-butyl-4-hydroxycyclohexylcarbamate | 2.53 g | C(CCC)C1(CCC(CC1)NC(OC(C)(C)C)=O)O | C15H29NO3
